US07524845B2
1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone (128 mg) and CuCN (112 mg) were combined in N-methylpyridone (NMP) (1 mL) and heated at 165° C. for 16 hr, then cooled to room temperature. The reaction mixture was purified on preparative HPLC to afford 1-{2-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile as a white powder: LCMS (ES) M+H 411.5, Rf 2.33 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 128 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)I)=O)OC | C19H19ClIN5O2
reactant | CuCN | 112 mg | C(#N)[Cu]
solvent | N-methylpyridone | 1 mL | CN1C(C=CC=C1)=O | C6H7NO
product | 1-{2-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)C#N)=O)OC | C20H19ClN6O2
